US08349859B2
Synthesis of 3-(4-(2-methyl-1H-indol-5-ylamino)pyrimidin-2-yl amino)phenol (Compound 284)
A solution of N2-(3-methoxylphenyl)-N4-(2-methyl-1H-indol-5-yl)pyrimidine-2,4-diamine (0.1 mmol) in 5 ml CH2Cl2 was placed in an ice bath. To this was added BBr3(0.5 mmol). The reaction mixture was stirred overnight at room temperature, then poured into ice water, and extracted with ethyl acetate. The organic layer was washed sequentially with water and brine, dried over anhydrous Na2SO4, and concentrated. The residue was purified by column chromatography to provide the desired product in a yield of 83%.

reactant | N2-(3-methoxylphenyl)-N4-(2-methyl-1H-indol-5-yl)pyrimidine-2,4-diamine | 0.1 mmol | O(C)C=1C=C(C=CC1)NC1=NC=CC(=N1)NC=1C=C2C=C(NC2=CC1)C | C20H19N5O
reactant | BBr3 | 0.5 mmol | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | 3-(4-(2-methyl-1H-indol-5-ylamino)pyrimidin-2-yl amino)phenol | yield of 83% | CC=1NC2=CC=C(C=C2C1)NC1=NC(=NC=C1)NC=1C=C(C=CC1)O | C19H17N5O
